US07838498B2
Preparation of (2S,3R,4R,5S,6R)-2-(4-chloro-2-((2,3-dihydroxypropoxy)methyl)-5-(4-ethylbenzyl)phenyl)-6-(hydroxymethyl)tetrahydro-2H-pyran-3,4,5-triol (Compound L)
To a stirred solution of (2R,3R,4R,5S,6S)-2-(acetoxymethyl)-6-(4-chloro-2-((2,3-dihydroxypropoxy)methyl)-5-(4-ethylbenzyl)phenyl)tetrahydro-2H-pyran-3,4,5-triyl triacetate (50 mg, 0.076 mmol) (prepared from intermediate J using a Sharpless dihydroxylation) in THF:MeOH:H2O (2:3:1, 1.2 mL) was added lithium hydroxide (3.71 mg). The reaction was stirred overnight at 20° C. The volatiles were removed and the residue was dissolved in EtOAc (20 mL), washed 1× with brine, 1× with brine containing 2 mL of 5% aqueous KHSO4 and dried over Na2SO4. Concentration gave 3.5 mg of pure product as a white solid. 1H-NMR (CD3OD, 300 MHz) δ 7.45 (s, 1H), 7.43 (s, 1H), 7.08 (s, 4H), 4.75-4.70 (m, 2H), 4.60-4.45 (m, 2H), 4.10 (d, J=14.8 Hz, 1H), 4.05 (d, J=14.8 Hz, 1H), 3.93-3.83 (m, 2H), 3.87-3.77 (m, 2H), 3.66-3.36 (m, 7H), 2.60 (q, J=7.8 Hz, 2H), 1.21 (t, J=7.8 Hz, 3H), 1.15 (d, J=7.8 Hz, 3H); LC-MS (m/z) 497 [(M+1)+], 541 [(M+45)−].

reactant | (2R,3R,4R,5S,6S)-2-(acetoxymethyl)-6-(4-chloro-2-((2,3-dihydroxypropoxy)methyl)-5-(4-ethylbenzyl)phenyl)tetrahydro-2H-pyran-3,4,5-triyl triacetate | 0.076 mmol, 50 mg | C(C)(=O)O[C@@H]1[C@H](O[C@H]([C@@H]([C@H]1OC(C)=O)OC(C)=O)C1=C(C=C(C(=C1)CC1=CC=C(C=C1)CC)Cl)COCC(CO)O)COC(C)=O | C33H41ClO12
reactant | lithium hydroxide | 3.71 mg | [OH-].[Li+]
solvent | THF MeOH H2O | 1.2 mL | C1CCOC1.CO.O
product | (2S,3R,4R,5S,6R)-2-(4-chloro-2-((2,3-dihydroxypropoxy)methyl)-5-(4-ethylbenzyl)phenyl)-6-(hydroxymethyl)tetrahydro-2H-pyran-3,4,5-triol | 3.5 mg | ClC1=CC(=C(C=C1CC1=CC=C(C=C1)CC)[C@@H]1O[C@@H]([C@H]([C@@H]([C@H]1O)O)O)CO)COCC(CO)O | C25H33ClO8
